US06316444B1
Step A: 2-Methylthio-4-[benzimidazol-1-yl]pyrimidine
A mixture of NaH (0.548 mg, 22.8 mmol), benzimidazole (0.52 g, 21.3 mmol) and 4-chloro-2-methylthiopyrimidine (2.48 mL, 21.3 mmol) in 30 mL of DMF was heated to 100° C. for 30 min. The reaction was quenched with H2O and extracted with EtOAc. The combined organic fractions were washed with brine, dried over MgSO4, filtered and concentrated. The residue was purified by chromatography (silica, 0-10% MeOH:CH2Cl2) to give 1.99 g of the title compound. 1H NMR (500 MHz, CDCl3): δ8.69 (s, 1H); 8.64 (d, J=5.5 Hz, 1H); 8.22 (dd, J=1.4, 7.3 Hz); 7.89 (dd, J=1.6, 7.3 Hz); 7.44 (m, 2H); 7.23 (d, J=5.7 Hz, 1H); 2.69 (s, 3H).

reactant | NaH | 22.8 mmol, 0.548 mg | [H-].[Na+]
reactant | benzimidazole | 21.3 mmol, 0.52 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 4-chloro-2-methylthiopyrimidine | 21.3 mmol, 2.48 mL | ClC1=NC(=NC=C1)SC | C5H5ClN2S
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-Methylthio-4-[benzimidazol-1-yl]pyrimidine | 1.99 g | CSC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4S
